US07524813B2
Trifluoroacetic acid (50 ml) was added to a solution of {(S)-1-carbamoyl-2-[4-(2-oxopropoxy)phenyl]ethyl}carbamic acid tert-butyl ester (2.65 g, 7.88 mmol) in dichloromethane (50 ml). The reaction mixture was stirred for 1 h at room temperature. The solvent was removed in vacuo. The residue was dissolved in dichloromethane (50 ml) and the solvent was removed in vacuo. The latter procedure was repeated once. The crude product was purified by C-18 reversed phase chromatography on a HPLC, using a gradient of 13-33% acetonitrile in water in a buffer of trifluoroacetic acid (0.1%) to give 460 mg of (S)-2-amino-3-[4-(2-oxopropoxy)phenyl]propionamide.

reactant | Trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | {(S)-1-carbamoyl-2-[4-(2-oxopropoxy)phenyl]ethyl}carbamic acid tert-butyl ester | 7.88 mmol, 2.65 g | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)OCC(C)=O)C(N)=O)=O | C17H24N2O5
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (S)-2-amino-3-[4-(2-oxopropoxy)phenyl]propionamide | 460 mg | N[C@H](C(=O)N)CC1=CC=C(C=C1)OCC(C)=O | C12H16N2O3
